US04719222
3-Acetyl-2,2-dimethyl-5-oxo-1-imidazolidineacetamide
A solution of 2,2 dimethyl-5-oxo-1-imidazolidineacetamide (1.7 g) in acetic anhydride (9 ml) was stirred at 70°-80° C. for 5 minutes. The precipitate was collected and washed with acetone, affording the title compound as a white powder, m.p. 188°-189° C. (ethyl acetate).

reactant | 2,2 dimethyl-5-oxo-1-imidazolidineacetamide | 1.7 g | CC1(N(C(CN1)=O)CC(=O)N)C | C7H13N3O2
reactant | acetic anhydride | 9 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Acetyl-2,2-dimethyl-5-oxo-1-imidazolidineacetamide | C(C)(=O)N1C(N(C(C1)=O)CC(=O)N)(C)C | C9H15N3O3
